US09447092B2
4-(4-((1,2,4-Oxadiazol-3-yl)methyl)piperazin-1-yl)-5-chloro-3-nitropyridin-2-amine
To a solution of tert-butyl 4-((1,2,4-oxadiazol-3-yl)methyl)piperazine-1-carboxylate (213 mg, 0.790 mmol) in CH2Cl2 (18 mL) was added TFA (1.8 mL, 23.8 mmol) and the solution was stirred at room temperature for 1½ h. The reaction was concentrated in vacuo, azeotroping with toluene (×2) and dried in vacuum desiccator (containing KOH) overnight to give a yellow oil. The crude oil was dissolved in iPrOH (4.4 mL) and both 2-amino-3-nitro-4,5-dichloropyridine (190 mg, 0.752 mmol) and DIPEA (520 μl, 3.00 mmol) were added. The solution was stirred at 50° C. for 4 h. On cooling, a yellow precipitate dropped out which was filtered, washed with Et2O, dried in vacuo to yield the title compound as a yellow solid (165 mg, 0.486, 65%). The filtrate was concentrated in vacuo to give 715 mg oily yellow solid. Purification was accomplished by flash chromatography on silica gel (4×11) eluting with EtOAc/hexane (40-50%) to yield the title compound (42 mg, 16%) as a yellow solid.

reactant | tert-butyl 4-((1,2,4-oxadiazol-3-yl)methyl)piperazine-1-carboxylate | 0.790 mmol, 213 mg | O1N=C(N=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C12H20N4O3
reactant | TFA | 23.8 mmol, 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-amino-3-nitro-4,5-dichloropyridine | 0.752 mmol, 190 mg | NC1=NC=C(C(=C1[N+](=O)[O-])Cl)Cl | C5H3Cl2N3O2
reactant | DIPEA | 3.00 mmol, 520 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
solvent | iPrOH | 4.4 mL | CC(C)O | C3H8O
product | 4-(4-((1,2,4-Oxadiazol-3-yl)methyl)piperazin-1-yl)-5-chloro-3-nitropyridin-2-amine | 165 mg, 65% | O1N=C(N=C1)CN1CCN(CC1)C1=C(C(=NC=C1Cl)N)[N+](=O)[O-] | C12H14ClN7O3
